data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1700,1880,[CH3:17][C:18](=[O:19])[CH-:20][N+:21]#[C:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]#[C:9][C:10]([CH3:11])([CH3:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]2=[C:9]([C:10]([CH3:11])([CH3:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)=[N:21][CH:20]2[C:18]([CH3:17])=[O:19],water,298.15,17.415214527469374,-58.66242722309326
2735,3040,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23][CH2:24][CH2:25][CH2:26]1.[CH3:27][NH:28][C:29](=[O:30])[C-:31]([CH3:32])[NH+:33]=[C:34]([C:35]#[N:36])[C:37]([CH3:38])=[O:39]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[CH2:23][CH2:24][CH2:25][CH2:26]1)[C:31]([C:29]([NH:28][CH3:27])=[O:30])([CH3:32])[NH:33][C:34]2([C:35]#[N:36])[C:37]([CH3:38])=[O:39],water,298.15,36.12712627396901,-14.8738333327962
3989,4564,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)=[N+:19]([CH3:20])[NH-:21]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:12]([CH3:11])([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[N:19]([CH3:20])[NH:21]2,water,298.15,29.20404673564901,-13.269032073112678
5118,5811,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[NH+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([C:18]([CH3:19])=[O:20])([C:21]([CH3:22])=[O:23])[NH:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,44.357699152369584,5.2921469250590745
4633,5283,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23]([CH3:24])=[O:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)=[N:15][C:14]2([C:12]([CH3:11])=[O:13])[C:23]([CH3:24])=[O:25],water,298.15,15.86338306362961,-12.349473692356206
1000,1089,[CH3:15][N-:16][O+:17]=[C:18]([C:19]#[N:20])[C:21](=[O:22])[O:23][CH3:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:18]([C:19]#[N:20])([C:21](=[O:22])[O:23][CH3:24])[O:17][N:16]2[CH3:15],water,298.15,20.805935955490128,-41.14468228290951
4002,4578,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[o+:15][c:16]([C:17]#[N:18])[o:19][c:20]1=[O:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:16]2([C:17]#[N:18])[O:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:20](=[O:21])[O:19]2,water,298.15,6.5220135037629605,-25.11335449172281
724,785,[CH3:11][NH:12][C:13](=[O:14])[C:15]([CH3:16])=[O+:17][C-:18]([C:19]#[N:20])[C:21]#[N:22].[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[N:1]#[C:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([CH3:16])[O:17][C:18]2([C:19]#[N:20])[C:21]#[N:22],water,298.15,17.00754019760494,-29.07384828638948
907,981,[CH3:16][CH-:17][N+:18]#[C:19][C:20]([CH3:21])=[O:22].[CH3:1][C:2](=[C:3]([C:4]([F:5])([F:6])[F:7])[C:8]([F:9])([F:10])[F:11])[C:12]([F:13])([F:14])[F:15]>>[CH3:1][C:2]1([C:12]([F:13])([F:14])[F:15])[C:3]([C:4]([F:5])([F:6])[F:7])([C:8]([F:9])([F:10])[F:11])[C:19]([C:20]([CH3:21])=[O:22])=[N:18][CH:17]1[CH3:16],water,298.15,15.293570256865609,-35.07910854787913
1246,1362,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([N+:17]#[C:18][C:19](=[O:20])[O:21][CH3:22])[C:23]([CH3:24])=[O:25].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:23]([CH3:24])=[O:25])[N:17]=[C:18]3[C:19](=[O:20])[O:21][CH3:22],water,298.15,13.2799864338137,-52.71939197044404
4828,5510,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])=[N:15][C:16]1([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,13.851997466343482,-31.42642471476063
